US04465850
A mixture of (+) 6,7-dichloro-2-cyclopentyl-2,3-dihydro-5-hydroxy-2-methyl-1H-inden-1-one (14.25 g, 0.046 mole) potassium carbonate (12.5 g, 0.09 mole) and ethyl 4-bromobutanoate (17.5 g, 0.08 mole) in DMF (150 ml) is stirred at 55° C. for 4 hours then poured into ice water and extracted with ether, washed with water and the ether evaporated at reduced pressure. The residual oil is dissolved in acetic acid (150 ml) and 5% hydrochloric acid (50 ml), heated at 95° C. for 21/2 hours, cooled and treated with ie (50 g) to give 17.65 g of (+)[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)-oxy]butanoic acid which melts at 75°-77° C. [α]D25 (C=2, acetone)=+36.8°.

reactant | (+) 6,7-dichloro-2-cyclopentyl-2,3-dihydro-5-hydroxy-2-methyl-1H-inden-1-one | 0.046 mole, 14.25 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)O | C15H16Cl2O2
reactant | ethyl 4-bromobutanoate | 0.08 mole, 17.5 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | (+)[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)-oxy]butanoic acid | 17.65 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)OC(C(=O)O)CC | C19H22Cl2O4
